US07476399B2
4-Methoxy-3-methyl-N-(1-phenyl-butyl)-benzamide
Prepared in a similar manner to example 4 using 4-methoxy-3-methyl-benzoic acid and 1-phenyl-butylamine. MS (M+H, 298.2).

reactant | 4-methoxy-3-methyl-benzoic acid | COC1=C(C=C(C(=O)O)C=C1)C | C9H10O3
reactant | 1-phenyl-butylamine | C1(=CC=CC=C1)C(CCC)N | C10H15N
product | 4-Methoxy-3-methyl-N-(1-phenyl-butyl)-benzamide | COC1=C(C=C(C(=O)NC(CCC)C2=CC=CC=C2)C=C1)C | C19H23NO2
